US05192765
1-Diphenylmethoxymethyl-1-(4-methoxyphenethylamino)cyclohexane
The title compound was prepared as described in Example 1 using 1-amino-1-diphenylmethoxymethylcyclohexane (see Preparation 3) and 4-methoxyphenethyl bromide. The title compound was obtained as a colourless oil (0.88 g, 68%) which was characterised from its 1H-n.m.r. spectrum.

reactant | 1-amino-1-diphenylmethoxymethylcyclohexane | NC1(CCCCC1)COC(C1=CC=CC=C1)C1=CC=CC=C1 | C20H25NO
reactant | 4-methoxyphenethyl bromide | COC1=CC=C(CCBr)C=C1 | C9H11BrO
product | 1-Diphenylmethoxymethyl-1-(4-methoxyphenethylamino)cyclohexane | C1(=CC=CC=C1)C(OCC1(CCCCC1)NCCC1=CC=C(C=C1)OC)C1=CC=CC=C1 | C29H35NO2
